US08168794B2
To a solution of (+/−)-tert-butyl 6-(tert-butyldimethylsilyloxy)-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (1.0 equiv.) in AcOH (0.18 M) was added Fe (6.0 equiv.) and the reaction was stirred for 20 h. Worked up by diluting the reaction with methanol, filtered, and concentrated the filtrate. To the crude was added ethyl acetate and saturated NaHCO3, the organics were dried with sodium sulfate and concentrated to give (+/−)-tert-butyl 3-(3-aminopyridin-4-yl)-6-(tert-butyldimethylsilyloxy)cyclohex-2-enylcarbamate as a yellow oil in 94% yield. LCMS (m/z): 420.3 (MH+), LC Rt=3.88 min.

reactant | (+/−)-tert-butyl 6-(tert-butyldimethylsilyloxy)-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1CCC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-] | C22H35N3O5Si
reactant | methanol | CO | CH4O
solvent | AcOH | 0.18 M | CC(=O)O | C2H4O2
catalyst | Fe | 6.0 equiv. | [Fe] | Fe
product | (+/−)-tert-butyl 3-(3-aminopyridin-4-yl)-6-(tert-butyldimethylsilyloxy)cyclohex-2-enylcarbamate | 94% yield | NC=1C=NC=CC1C1=CC(C(CC1)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C22H37N3O3Si
